US05998433
b) Synthesis of 6-benzyl-5,6,7,8-tetrahydro-4H-furo[2,3-d]azepine
To a solution of 1.208 g (7.735 mmol) of 2-[3-(2-hydroxyethyl)furan-2-yl]ethanol and 4.04 ml (23.2 mmol) of N,N-diisopropylethylamine in 50 ml of dichloromethane, 1.32 ml (17.0 mmol) of methanesulfonyl chloride was added dropwise under ice-cooling, followed by stirring at room temperature for 1 hour. The reaction mixture was poured into water and extracted with diethyl ether 3 times. The combined organic layer was dried over anhydrous magnesium sulfate; the solvent was distilled off under reduced pressure. The resulting residue was dissolved in 100 ml of ethanol; 0.83 g (7.7 mmol) of benzylamine and 2.37 ml (17.0 mmol) of triethylamine were added, followed by stirring at 80° C. for 3 days. After the solvent was distilled off from the reaction mixture under reduced pressure, aqueous sodium hydroxide was added, followed by 3 extractions with ethyl acetate. The combined organic layer was dried over anhydrous magnesium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel column chromatography (hexane/ethyl acetate=9/1) to yield the desired product.

reactant | 2-[3-(2-hydroxyethyl)furan-2-yl]ethanol | 7.735 mmol, 1.208 g | OCCC1=C(OC=C1)CCO | C8H12O3
reactant | N,N-diisopropylethylamine | 23.2 mmol, 4.04 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methanesulfonyl chloride | 17.0 mmol, 1.32 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | benzylamine | 7.7 mmol, 0.83 g | C(C1=CC=CC=C1)N | C7H9N
reactant | triethylamine | 17.0 mmol, 2.37 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 6-benzyl-5,6,7,8-tetrahydro-4H-furo[2,3-d]azepine | C(C1=CC=CC=C1)N1CCC2=C(CC1)C=CO2 | C15H17NO
